US08669208B2
1-Propyl-2-thioxo-3-(2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-imidazolidine-4,5-dione
Ethyl oxalyl chloride (0.487 ml, 4.36 mmol) was added to a stirred solution of 1-propyl-3-(2,2,7-trifluoro-3-oxo-4-(prop-2-ynyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)thiourea (1197 mg, 3.35 mmol) in dichloromethane (20 ml) at room temperature under nitrogen. The resulting mixture was stirred overnight at room temperature, and then evaporated in vacuo. Toluene was added to the yellow residue, and the resulting suspension was refluxed for 3 hours, resulting in a clear solution. The reaction mixture was cooled to room temperature, and the resulting precipitate was isolated and washed with heptane to yield 792 mg of crude product. This was then recrystallised from toluene. Some remaining impurity was removed by dissolving the solid in ethyl aceate, washing with aqueous sodium bicarbonate solution, drying over sodium sulfate, and evaporating in vacuo to yield 667 mg of the title compound (purity>95%).

reactant | 1-propyl-3-(2,2,7-trifluoro-3-oxo-4-(prop-2-ynyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)thiourea | 3.35 mmol, 1197 mg | C(CC)NC(=S)NC1=CC2=C(OC(C(N2CC#C)=O)(F)F)C=C1F | C15H14F3N3O2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-Propyl-2-thioxo-3-(2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-imidazolidine-4,5-dione | 667 mg | C(CC)N1C(N(C(C1=O)=O)C=1C(=CC2=C(N(C(C(O2)(F)F)=O)CC#C)C1)F)=S | C17H12F3N3O4S
